US04563522
A solution of ethyl 2-(2-tritylaminothiazol-4-yl)-2-allyloxyiminoacetate (syn isomer, 8.7 g.), 50% formic acid (42.5 ml.) and tetrahydrofuran (42.5 ml.) was stirred at 60° C. for 40 minutes. After concentthe resultant solution in vacuo, the residue was dissolved in ethyl acetate, washed with an aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, and dried over magnesium sulfate. After concentrating the resultant solution in vacuo, the residue was subjected to column chromatography on silica gel with benzene and ethyl acetate in turn, to give ethyl 2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetate (syn isomer, 3.7 g.), mp. 102° to 104° C.

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-allyloxyiminoacetate | 8.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCC=C | C29H27N3O3S
reactant | formic acid | 42.5 ml | C(=O)O | CH2O2
reactant | tetrahydrofuran | 42.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetate | 3.7 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC=C | C10H13N3O3S
